US04010179
Preparation of 1-[p-(difluoromethylthio)phenyl]-1H-tetrazole
A mixture of p-(difluoromethylthio)aniline (4.0 g.), sodium azide (4.0 g.), triethyl orthoformate (25 ml.), and acetic acid (25 ml.) was heated at 95° C. for 4.5 hours and then evaporated at reduced pressure. The residue was diluted with water, filtered, dried and recrystallized from ethyl acetate:hexane to give crystals, m.p. 94°-97° C.

reactant | p-(difluoromethylthio)aniline | 4.0 g | FC(SC1=CC=C(N)C=C1)F | C7H7F2NS
reactant | sodium azide | 4.0 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 25 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-[p-(difluoromethylthio)phenyl]-1H-tetrazole | FC(SC1=CC=C(C=C1)N1N=NN=C1)F | C8H6F2N4S
